US06472386B1
Synthesis of Ethyl 2-Bromothiazole-4-carboxylate
To a sulfuric acid solution (120 mL) of ethyl 2-aminothiazole-4-carboxylate (7.47 g), copper sulfate (10.91 g) and sodium bromide (8.12 g), a solution of sodium nitrite (3.63 g) in ice water was added dropwise over 15 minutes under ice cooling. The resultant mixture was stirred for 30 minutes and for 2 hours at room temperature. Ether was added to the reaction mixture, and the mixture was washed with water. The resultant water layer was neutralized with sodium hydroxide and extracted with ether. The extract was combined with the previously separated ether layer, washed with saturated brine and dried over anhydrous sodium sulfate. After concentrating the combined ether layer under reduced pressure, the resultant residue was purified by column chromatography on silica gel (chloroform), and the resultant crude crystals were recrystallized from hexane to obtain the title compound.

reactant | sulfuric acid | 120 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethyl 2-aminothiazole-4-carboxylate | 7.47 g | NC=1SC=C(N1)C(=O)OCC | C6H8N2O2S
reactant | sodium bromide | 8.12 g | [Br-].[Na+]
reactant | sodium nitrite | 3.63 g | N(=O)[O-].[Na+]
catalyst | copper sulfate | 10.91 g | S(=O)(=O)([O-])[O-].[Cu+2]
solvent | Ether | CCOCC | C4H10O
product | Ethyl 2-Bromothiazole-4-carboxylate | BrC=1SC=C(N1)C(=O)OCC | C6H6BrNO2S
